.SUBCKT gf180mcu_fd_sc_mcu9t5v0__antenna I VDD VDD VSS VSS
d0 VSS I diode_nd2ps_06v0 0.2034p 1.85u $m=1
d1 I VDD diode_pd2nw_06v0 0.2034p 1.85u $m=1
.ENDS
