.SUBCKT gf180mcu_fd_sc_mcu9t5v0__aoi22_2 A1 A2 B1 B2 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I B1:I B2:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!((A1 * A2) + (B1 * B2))
M_i_3_1 net_1_0 B2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 ZN B1 net_1_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 net_1_1 B1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 VSS B2 net_1_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_1 net_0_0 A2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 ZN A1 net_0_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 net_0_1 A1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_0 VSS A2 net_0_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_7_1 VDD B2 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_1 net_2 B1 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_0 VDD B1 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 net_2 B2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_1 ZN A2 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_1 net_2 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_4_0 ZN A1 net_2 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_5_0 net_2 A2 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
